US06350870B2
Lorazepam methanol solvate (100 g) was suspended in ethyl acetate (400 ml). The suspension was heated to 60° C. for one hour with rapid stirring and then cooled to 15° C. The suspension was filtered to recover the lorazepam crystals. The crystals were washed with ethyl acetate (50 ml) and dried at 50° C. under 65 mm Hg vacuum for two hours to give crystalline lorazepam (85 g, 80%).

reactant | Lorazepam methanol | 100 g | C=1C=CC(=C(C1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)O)Cl.CO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | lorazepam | 85 g, 80% | C=1C=CC(=C(C1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)O)Cl | C15H10Cl2N2O2
